* SpiceNetList
* 
* Exported from simulacion.sch at 7/9/2020 5:17 PM
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
Q_Q2 COILA N_4 0 2N2222A 
X_X1 COILA COILB TE N_7 XFORMER 
Q_Q1 COILB N_2 0 2N2222A 
D_D4 N_7 VOUT DMOD 
C_C2 COILB N_4 0.47u IC=1V 
C_C3 VOUT 0 0.47u IC=1V 
D_D1 TE VOUT DMOD 
D_D2 0 TE DMOD 
R_R3 N_2 VIN 27k 
R_R6 N_4 VIN 27k 
R_R2 COILB VIN 1k 
V_V1 VIN 0 5v 
D_D3 0 N_7 DMOD 
R_R1 COILA VIN 1k 
C_C1 COILA N_2 0.47u IC=1V 

* --------- models ---------

* model file: C:/Users/joser/OneDrive/SieteSegmentos-Articulos/Articulos-Pepe/reto-Wurth/simulacion/2N2222A.mdl
* from https://www.eevblog.com
.model 2N2222A NPN(IS=1E-14 VAF=100 BF=200 IKF=0.3 XTB=1.5 BR=3 CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=30)


* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* transformer subcircuit, requires RATIO parameter defined
* Date: 10/1/17
**********************
.SUBCKT XFORMER 1 2 3 4
E 5 4 1 2 {RATIO}
F 1 2 VM {RATIO}
VM 5 6
RP 1 2 1MEG
RS 6 3 1U
.ENDS XFORMER


* --------- simulation ---------
.print DC V(VIN) V(COILB) V(COILA) V(VOUT) V(TE) I(V_V1)
.print AC V(VIN) V(COILB) V(COILA) V(VOUT) V(TE) I(V_V1)
.print TRAN V(VIN) V(COILB) V(COILA) V(VOUT) V(TE) I(V_V1)
.END










